US05302720
A mixture of 3-methylthioiodobenzene (30 g), 2-nitrobromobenzene (24 g) and copper powder (23 g) was heated at 120° C. for 34 hours to yield a residue which was purified by chromatography on a silica column eluted with hexane to give 3'-methylthio-2-nitrobiphenyl (m.p. 42°-43° C.).

reactant | 3-methylthioiodobenzene | 30 g | CSC=1C=C(C=CC1)I | C7H7IS
reactant | 2-nitrobromobenzene | 24 g | [N+](=O)([O-])C1=C(C=CC=C1)Br | C6H4BrNO2
catalyst | copper | 23 g | [Cu] | Cu
product | 3'-methylthio-2-nitrobiphenyl | CSC=1C=C(C=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO2S
